US05948819
Synthesis of 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxy-N-methylacetamide (Compound No. 140)
A solution of methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyacetate (0.44 g, 1.40 mmol) in methanol (5 ml) was stirred at room temperature. 40% methylamine/methanol solution (0.33 g, 4.2 mmol) was added thereto. After 22 hours, the mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=2/1) to give the desired compound 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxy-N-methylacetamide (0.36 g, 82%) as white crystals.

reactant | methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyacetate | 1.40 mmol, 0.44 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)OC)C=C(C=C1)C | C19H22O4
reactant | methylamine methanol | 4.2 mmol, 0.33 g | CN.CO
solvent | methanol | 5 ml | CO | CH4O
product | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxy-N-methylacetamide | 0.36 g, 82% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)NC)OC)C=C(C=C1)C | C19H23NO3
